US04596830
3,4-Dihydro-4,4-dimethyl-2-(3-methoxy-2-thienyl)-oxazole (VII: R=CH3)
50.2 g (0.32 moles) of 3-methoxy-2-thiophene carboxylic acid are refluxed in 300 ml of thionyl chloride for 2 hours, the reaction solution is evaporated in vacuo, the crystalline residue (56 g) is dissolved in 250 ml of methylene chloride and added dropwise with stirring to a solution of 57 g (0.64 moles) of 2-amino-2-methyl-1-propanol in 200 ml of methylene chloride at 0° C. within 1/2 hour. After 12 hours of stirring at room temperature, the solution is concentrated under vacuum, cooled, the precipitate is aspirated, washed well with water, dried, 135 ml of thionyl chloride are added slowly with cooling, and the solution is stirred at room temperature for 12 hours. Then it is evaporated in vacuo, the residue is dissolved in water, extracted with ether, the aqueous phase is made alkaline with aqueous 2N sodium hydroxide and extracted several times with methylene chloride. The combined methylene chloride phases are dried with sodium sulfate and evaporated in vacuo. Yield: 57.0 g (84%), m.p. (petroleum ether) 97°-98° C.

reactant | 3-methoxy-2-thiophene carboxylic acid | 0.32 moles, 50.2 g | COC1=C(SC=C1)C(=O)O | C6H6O3S
reactant | 2-amino-2-methyl-1-propanol | 0.64 moles, 57 g | NC(CO)(C)C | C4H11NO
solvent | thionyl chloride | 300 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dihydro-4,4-dimethyl-2-(3-methoxy-2-thienyl)-oxazole | CC1(NC(OC1)C=1SC=CC1OC)C | C10H15NO2S
